US07189741B2
C. Preparation of 2-(2-{4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 3 g (0.01 mol) of 1-(2-[1,3]dioxolan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole and 2.8 g (0.013 mol) of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. The crude mixture was purified by flash chromatography over silica gel affording 1.86 g (40% of yield) of 2-(2-{4-[1-(2-[1,3]dioxolan-2-yl-ethyl-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid.

reactant | 1-(2-[1,3]dioxolan-2-yl-ethyl)-3-piperidin-4-yl-1H-indole | 0.01 mol, 3 g | O1C(OCC1)CCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C18H24N2O2
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | 0.013 mol, 2.8 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-(2-{4-[1-(2-[1,3]dioxolan-2-yl-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | O1C(OCC1)CCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C27H32N2O5
